US08703953B2
To a solution of tert-butyl((2S)-4-methyl-1-((5-methyl-5H-chromeno[3,4-c]pyridin-8-yl)oxy)pentan-2-yl)carbamate (200 mg, 0.485 mmol) in acetonitrile (4 mL) was added NIS (654 mg, 2.91 mmol) and the mixture refluxed at 80° C. for 12 h. The volatiles were removed under reduced pressure. The residue was dissolved in water (10 mL) and the aqueous layer was extracted with ethyl acetate (3×10 mL). The combined organic layers were washed with brine (15 mL). The organic layer was dried over Na2SO4 and concentrated under reduced pressure. The crude product was purified by silica gel chromatography (pet ether: ethyl acetate) to afford tert-butyl((2S)-1-((9-iodo-5-methyl-5H-chromeno[3,4-c]pyridin-8-yl)oxy)-4-methylpentan-2-yl)carbamate (150 mg, 0.237 mmol, 49% yield) as a dark brown oil. LCMS (ESI) m/e 539.0 [(M+H)+, calcd for C24H32IN2O4 539.1]; LC/MS retention time (method D): tR=1.84 min.

reactant | tert-butyl((2S)-4-methyl-1-((5-methyl-5H-chromeno[3,4-c]pyridin-8-yl)oxy)pentan-2-yl)carbamate | 0.485 mmol, 200 mg | C(C)(C)(C)OC(N[C@H](COC=1C=CC2=C(C1)OC(C1=CN=CC=C12)C)CC(C)C)=O | C24H32N2O4
reactant | NIS | 2.91 mmol, 654 mg | C1CC(=O)N(C1=O)I | C4H4INO2
solvent | acetonitrile | 4 mL | C(C)#N | C2H3N
product | tert-butyl((2S)-1-((9-iodo-5-methyl-5H-chromeno[3,4-c]pyridin-8-yl)oxy)-4-methylpentan-2-yl)carbamate | 0.237 mmol, 150 mg, 49% yield | C(C)(C)(C)OC(N[C@H](COC=1C(=CC2=C(C1)OC(C1=CN=CC=C12)C)I)CC(C)C)=O | C24H31IN2O4
